US05936097
A stream of ozone is sparged at -75° C. for 3 hours 30 minutes into a solution of 1 g (5.62 mmol) of 2-(2-methoxyphenyl)acrylic acid, obtained under the conditions described in Example 38, in dichloromethane. 1.66 cm3 (22.5 mmol) of dimethyl sulphide are added and stirring is continued, the temperature being allowed to rise to the region of 20° C. After concentrating the reaction mixture to dryness, 0.7 g (69%) of (2-methoxyphenyl)oxoacetic acid is obtained in the form of crystals, the characteristics of which are as follows: mass spectrum (E.I.) M/Z=180 (M+)

reactant | ozone | O=[O+][O-] | O3
reactant | 2-(2-methoxyphenyl)acrylic acid | 5.62 mmol, 1 g | COC1=C(C=CC=C1)C(C(=O)O)=C | C10H10O3
reactant | dimethyl sulphide | 22.5 mmol, 1.66 cm3 | CSC | C2H6S
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2-methoxyphenyl)oxoacetic acid | 0.7 g, 69% | COC1=C(C=CC=C1)C(C(=O)O)=O | C9H8O4
